* Schematics Netlist *



R_R3         $N_0002 $N_0001  50  
R_R2         $N_0002 $N_0003  50  
V_V1         $N_0003 0  
+SIN 0 3 5000 0 0 0
V_V2         $N_0001 0  
+SIN 0 3 10000 0 0 0
C_C1         $N_0002 $N_0004  1.5143n  
L_L1         $N_0004 $N_0005  0.16727H  
R_R1         $N_0005 0  10k  
