* Schematics Netlist *



R_R1         0 $N_0001  1k  
C_C1         $N_0002 $N_0003  1u  
L_L1         $N_0003 $N_0001  10uH  
V_V1         $N_0002 0  
+SIN 0 1 100 0 0 0
