* Schematics Netlist *



R_R1         $N_0002 $N_0001  50  
R_R2         $N_0004 $N_0003  50  
R_R3         $N_0006 $N_0005  50  
R_R4         $N_0008 $N_0007  50  
R_R5         Vin $N_0009  50  
R_R6         0 Vin  10.05k  
V_V1         $N_0001 0 DC 0 
+SIN 0 1.2732 1k 0 0 0
V_V2         $N_0003 $N_0002 DC 0 
+SIN 0 0.4244 3k 0 0 0
V_V3         $N_0005 $N_0004 DC 0 
+SIN 0 0.2546 5k 0 0 0
V_V4         $N_0007 $N_0006 DC 0 
+SIN 0 0.1818 7k 0 0 0
V_V5         $N_0009 $N_0008 DC 0 
+SIN 0 0.1414 9k 0 0 0
