* Schematics Netlist *



R_R2         $N_0002 $N_0001  10k  
R_R1         0 $N_0002  1k  
E_U1         $N_0001 0 VALUE {LIMIT(V($N_0003,$N_0002)*1E6,-10V,+10V)}
V_Vi         $N_0003 0 DC 0 
+SIN 0 1.6 1k 0 0 0
