* source PROJ3
R_R1         N00279 N00285  1050  
L_L1         N00285 N00288  470uH  
L_L2         0 N00288  6H  
R_R2         0 N00288  5050  
V_V1         N00279 0  
+SIN 0 1.296 60 0 0 0
