* Schematics Netlist *



R_R1         Vin1 $N_0001  1.55k  
R_R2         Vin2 $N_0002  1.55k  
C_C2         0 Vout2  0.1u  
V_V2         Vin2 0  
+PULSE 0 5 0 1us 1us 100ms 200ms
V_V3         Vin3 0  
+PULSE 0 5 0 1us 1us 100ms 200ms
R_R3         Vin3 $N_0003  1.55k  
R_R4         Vin4 $N_0004  1.55k  
C_C3         0 Vout3  0.1u  
C_C1         0 Vout1  0.1u  
V_V4         Vin4 0  
+PULSE 0 5 0 1us 1us 100ms 200ms
L_L4         $N_0004 Vout4  500mH  
C_C4         0 Vout4  0.1u  
L_L1         $N_0001 Vout1  1pH  
L_L2         $N_0002 Vout2  100mH  
L_L3         $N_0003 Vout3  200mH  
V_V1         Vin1 0  
+PULSE 0 5 0 1us 1us 100ms 200ms
