* Schematics Netlist *



V_V5         $N_0001 0 5V
V_V6         $N_0002 0 5V
R_R1A3         $N_0003 $N_0001  10.05k  
R_R1B3         $N_0004 $N_0001  2.05k  
R_R1C3         $N_0004 $N_0003  2.05k  
R_R2A3         0 $N_0005  10.05k  
R_R2B3         $N_0003 $N_0005  4.75k  
R_R2C3         $N_0003 0  10.05k  
R_R1A4         $N_0007 $N_0006  10.05k  
R_R1B4         $N_0002 $N_0006  2.05k  
R_R1C4         $N_0002 $N_0007  2.05k  
R_R2A4         0 $N_0007  10.05k  
R_R2B4         $N_0008 $N_0007  4.75k  
R_R2C4         $N_0008 0  10.05k  
V_V1         $N_0009 0 5V
V_V2         $N_0010 0 5V
V_V3         $N_0011 0 5V
V_V4         $N_0012 0 5V
R_R1A1         0 $N_0009  10.05k  
R_R1B1         $N_0013 $N_0009  2.05k  
R_R1C1         $N_0013 0  2.05k  
R_R2A1         0 $N_0010  10.05k  
R_R2B1         $N_0014 $N_0010  4.75k  
R_R2C1         $N_0014 0  10.05k  
R_R1B2         $N_0011 $N_0015  2.05k  
R_R1A2         0 $N_0015  10.05k  
R_R1C2         $N_0011 0  2.05k  
R_R2A2         0 $N_0016  10.05k  
R_R2B2         $N_0012 $N_0016  4.75k  
R_R2C2         $N_0012 0  10.05k  
