* Schematics Netlist *



R_R1         0 Vout  1.050k  
L_L1         $N_0001 Vout  33uH  
C_C1         Vin $N_0001  0.1uF  
V_V1         Vin 0 DC 0 
+SIN 0 1 0.5k 0 0 0
