* Schematics Netlist *



L_L1         $N_0001 Vout  33uH  
C_C1         0 Vout  0.1uF  
R_R1         Vin1 $N_0001  2.250k  
V_V1         Vin1 0 DC 0 
+SIN 0 2.828 3k 0 0 0
R_R2         Vin2 $N_0001  1.050k  
V_V2         Vin2 0 DC 0 
+SIN 0 7.071 10k 0 0 0
